US05532367
This compound is prepared in a manner analogous to that of Step A of Example 4, using 1.7 grams (0.008 mole) of 2-amino-3-cyano-5-bromo-6-methylpyrazine, 3.2 grams (0.012 mole) of 3,5-di(trifluoromethyl)phenylboronic acid, 4.3 grams (0.031 mole) of potassium carbonate and 0.3 gram of tetrakis(triphenylphosphine)palladium(0) in 150 mL of toluene, yielding 2-amino-3-cyano-5-[3,5-di(trifluoro-methyl)phenyl]-6-methylpyrazine.

reactant | 2-amino-3-cyano-5-bromo-6-methylpyrazine | 0.008 mole, 1.7 grams | NC1=NC(=C(N=C1C#N)Br)C | C6H5BrN4
reactant | 3,5-di(trifluoromethyl)phenylboronic acid | 0.012 mole, 3.2 grams | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | potassium carbonate | 0.031 mole, 4.3 grams | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 gram | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-3-cyano-5-[3,5-di(trifluoro-methyl)phenyl]-6-methylpyrazine | NC1=NC(=C(N=C1C#N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C14H8F6N4
